US20010049371A1
N-Benzyloxy-3-(3-ethoxy-4-methoxyphenyl)-3-(1-oxoisoindolinyl)propionamide was prepared by the procedure of Example 1 from 3-(3-ethoxy-4-methoxyphenyl)-3-(1-oxoisoindolinyl)propanoic acid (1.78 g, 5.00 mmol), N,N′-carbonyldiimidazole (850 mg, 5.24 mmol) and O-benzylhydroxylamine hydrochloride (940 mg, 5.89 mmol) in tetrahydrofuran (10 mL) to afford N-benzyloxy-3-(3-ethoxy-4-methoxyphenyl)-3-(1-oxoisoindolinyl)propionamide as a white solid (1.73 g, 75% yield): mp, 132.0-133.0° C.; 1H NMR (DMSO-d6) δ1.29 (t, J=6.9 Hz, 3H, CH3), 2.83 (d, J=7.8 Hz, 2H, CH2), 3.72 (s, 3H, CH3), 3.93-4.02 (m, 2H, CH2), 4.09 (d, J=17.5 Hz, 1H, NCHH), 4.51 (d, J=17.5 Hz, 1H, NCHH), 4.59 (d, J=11.3 Hz, 1H, PhCHH), 4.66 (d, J=11.2 Hz, 1H, PhCHH), 5.74 (t, J=7.8 Hz, 1H, NCH), 6.83-6.93 (m, 3H, Ar), 7.21-7.29 & 7.45-7.59 (m, 8H, Ar), 7.68 (d, J=7.4 Hz, 1H, Ar), 11.17 (br s, 1H, NH); 13C NMR (DMSO-d6) δ14.66, 35.08, 46.18, 51.29, 55.43, 63.71, 76.69, 111.82, 112.11, 119.25, 122.82, 123.44, 127.85, 128.17, 128.75, 131.31, 131.61, 132.17, 135.86, 141.68, 147.88, 148.45, 166.26, 166.88. Anal. Calcd for C27H28N2O5: C, 70.42; H, 6.13; N, 6.08. Found: C, 70.31; H, 6.07; N, 5.88.

reactant | 3-(3-ethoxy-4-methoxyphenyl)-3-(1-oxoisoindolinyl)propanoic acid | 5.00 mmol, 1.78 g | C(C)OC=1C=C(C=CC1OC)C(CC(=O)O)N1C(C2=CC=CC=C2C1)=O | C20H21NO5
reactant | O-benzylhydroxylamine hydrochloride | 5.89 mmol, 940 mg | Cl.C(C1=CC=CC=C1)ON
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | N-benzyloxy-3-(3-ethoxy-4-methoxyphenyl)-3-(1-oxoisoindolinyl)propionamide | 1.73 g, 75% yield | C(C1=CC=CC=C1)ONC(CC(N1C(C2=CC=CC=C2C1)=O)C1=CC(=C(C=C1)OC)OCC)=O | C27H28N2O5
